US07135475B2
A mixture of sodium hydride (216 mg, 8.57 mmol) in tetrahydrofuran (10 mL) cooled to 0° C. was treated with a solution of 1H-pyrazole-4-carboxylic acid ethyl ester (1.0 g, 7.14 mmol) in tetrahydrofuran (10 mL). The reaction was warmed to 25° C. and was stirred at 25° C. for 45 min. At this time, the reaction was treated with methyl iodide (0.67 mL, 10.71 mmol). The reaction was then stirred at 25° C. for 18 h. At this time, the reaction was cooled to 0° C. and was quenched by the dropwise addition of a saturated aqueous ammonium chloride solution. This mixture was diluted with ethyl acetate (150 mL). The organics were washed with water (1×50 mL) and a saturated aqueous sodium chloride solution (1×50 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 40:60 ethyl acetate/petroleum ether) afforded 1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester (897 mg, 81.5%) as a clear oil: 1H NMR (DMSO-d6, 300 MHz) δ8.27 (s, 1H), 7.80 (s, 1H), 4.18 (q, J=7.32 Hz, 2H), 3.85 (s, 3H), 1.24 (t, J =7.32 Hz, 3H).

reactant | sodium hydride | 8.57 mmol, 216 mg | [H-].[Na+]
reactant | 1H-pyrazole-4-carboxylic acid ethyl ester | 7.14 mmol, 1.0 g | C(C)OC(=O)C=1C=NNC1 | C6H8N2O2
reactant | methyl iodide | 10.71 mmol, 0.67 mL | CI | CH3I
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester | 897 mg, 81.5% | C(C)OC(=O)C=1C=NN(C1)C | C7H10N2O2
